US07256198B2
Step 4: 8′-({(2S)-2-[(4-Methylpiperazin-1-yl)methyl]pyrrolidin-1-yl}sulfonyl)spiro[cyclopentane-1,3′-pyrimido[1,2-a]indol]-10′(2′H)-one
The title compound was prepared as a light brown foam from 5-({(2S)-2-[(4-methylpiperazin-1-yl)methyl]pyrrolidin-1-yl}sulfonyl)-1H-indole-2,3-dione and 1-(chloromethyl)cyclopentanecarbonitrile (Syn. Comm. 20(12) 1757, 1990), using a procedure similar to that of steps 2-5 of Example 12. NMR (400 Mz, DMSO-d6): consistent. MS: (ES+) m/z 486.2 [M+H].

reactant | 5-({(2S)-2-[(4-methylpiperazin-1-yl)methyl]pyrrolidin-1-yl}sulfonyl)-1H-indole-2,3-dione | CN1CCN(CC1)C[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C18H24N4O4S
reactant | 1-(chloromethyl)cyclopentanecarbonitrile | ClCC1(CCCC1)C#N | C7H10ClN
product | 8′-({(2S)-2-[(4-Methylpiperazin-1-yl)methyl]pyrrolidin-1-yl}sulfonyl)spiro[cyclopentane-1,3′-pyrimido[1,2-a]indol]-10′(2′H)-one | CN1CCN(CC1)C[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CC1(CN3)CCCC1)=O | C25H35N5O3S
